US20010001799A1
In analogy to Example 1.1, methyl 5-formyl-2,3-dimethoxy-benzoate (F. Y. Wu, D. L. b rink, J. Agric. Food Chem. (1977) 25 692) was reacted with 4-aminobenzonitrile and benzyl isonitrile to give methyl (RS)-5-[(4-cyano-phenylamino)-methoxycarbonyl-methyl]-2,3-dimethoxybenzoate.

reactant | methyl 5-formyl-2,3-dimethoxy-benzoate | C(=O)C=1C=C(C(=C(C(=O)OC)C1)OC)OC | C11H12O5
reactant | 4-aminobenzonitrile | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | benzyl isonitrile | C(C1=CC=CC=C1)[N+]#[C-] | C8H7N
product | methyl (RS)-5-[(4-cyano-phenylamino)-methoxycarbonyl-methyl]-2,3-dimethoxybenzoate | C(#N)C1=CC=C(C=C1)NC(C=1C=C(C(=C(C(=O)OC)C1)OC)OC)C(=O)OC | C20H20N2O6
